US09278950B2
Step 9: Benzyl [2-[({4-[(3R,4S,5S)-3-[(tert-butoxycarbonyl)amino]-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(4-methyl-3-oxopiperazin-1-yl)quinolin-3-yl]carbamate
To a mixture of 3-{[(benzyloxy)carbonyl]amino}-7-(4-methyl-3-oxopiperazin-1-yl)quinoline-2-carboxylic acid (12.2 mg, 0.028 mmol), tert-butyl [(3R,4S,5S)-1-(3-aminopyridin-4-yl)-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-3-yl]carbamate (10.0 mg, 0.027 mmol), HATU (33 mg, 0.087 mmol), in DMF (0.29 mL), DIPEA (0.018 mL, 0.10 mmol) was added. The reaction mixture was stirred at room temperature for 2 h. The mixture was diluted with MeOH and H2O, filtered and the filtrate was purified by preparative LCMS (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at a flow rate of 60 mL/min.) to give the sub-title compound as a bright yellow powder (12 mg, 57%). LCMS calc. for C41H48N11O6 (M+H)+: m/z=790.4. Found: 790.3.

reactant | 3-{[(benzyloxy)carbonyl]amino}-7-(4-methyl-3-oxopiperazin-1-yl)quinoline-2-carboxylic acid | 0.028 mmol, 12.2 mg | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)N1CC(N(CC1)C)=O)C(=O)O | C23H22N4O5
reactant | tert-butyl [(3R,4S,5S)-1-(3-aminopyridin-4-yl)-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-3-yl]carbamate | 0.027 mmol, 10.0 mg | NC=1C=NC=CC1N1C[C@H]([C@H]([C@H](C1)C)N1N=NC=C1)NC(OC(C)(C)C)=O | C18H27N7O2
reactant | HATU | 0.087 mmol, 33 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.10 mmol, 0.018 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.29 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
solvent | H2O | O | H2O
product | Benzyl [2-[({4-[(3R,4S,5S)-3-[(tert-butoxycarbonyl)amino]-5-methyl-4-(1H-1,2,3-triazol-1-yl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-(4-methyl-3-oxopiperazin-1-yl)quinolin-3-yl]carbamate | 12 mg, 57% | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]([C@@H]1N1N=NC=C1)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)N1CC(N(CC1)C)=O | C41H47N11O6
